US06924374B2
4-(4-Fluoro-3-trifluoromethylphenyl)-1-propyl-piperidine
Beginning with 4-(4-Fluoro-3-trifluoromethylphenyl)-1-propyl-1,2,3,6-tetrahydropyridine, the titled compound was recovered by the procedure described in Preparation 6: m.p. 195-197° C. (HCl), MS m/z (rel. intensity, 70 eV)) 289 (M+, 4), 261 (15), 260 (bp), 177 (7), 70 (13).

reactant | 4-(4-Fluoro-3-trifluoromethylphenyl)-1-propyl-1,2,3,6-tetrahydropyridine | FC1=C(C=C(C=C1)C=1CCN(CC1)CCC)C(F)(F)F | C15H17F4N
reactant | HCl | Cl | ClH
product | 4-(4-Fluoro-3-trifluoromethylphenyl)-1-propyl-piperidine | FC1=C(C=C(C=C1)C1CCN(CC1)CCC)C(F)(F)F | C15H19F4N
